US04898930
Ethyl benzyloxycarbonylleucyl-alanyl-1-amino-1-cyclopentanecarboxylate
To a solution of benzyloxycarbonylleucyl-alanine (6.72 g, 20 mmoles) in dimethylformamide (70 ml) was added N-hydroxysuccinimide (2.3 g. 20 mmoles) and on cooling to -5° C. N,N'-dicyclohexyl-carbodiimide (4.4 g) was admixed. After 1 hour of stirring and cooling (-5° C.) there was added a dimethylformamide (40 ml) solution of ethyl 1-amino-1-cyclopentanecarboxylate liberated from its hydrochloride (3.86 g, 20 mmoles) with N-ethylpiperidine (2.8 ml) and the reaction mixture was stirred for further 2 hours at room temperature. After subsequent 12 hours of standing, the N,N'-dicyclohexylurea precipitate was filtered off, washed with dimethylformamide and the filtrate was evaporated. The residue was dissolved in an ethyl acetate-water mixture and the organic phase was shaken successively with 1M hydrochloric acid, water, 5% sodium hydrogencarbonate and water, dried over anhydrous sodium sulfate and evaporated. The residue was crystallized from ethyl acetate (25 ml) and petroleum ether (200 ml) to give 7.6 g (80%) of the title compound, m.p. 102° to 104° C., after similar recrystallization 104° to 106° C. [α]D20 -35.9° (c 0.2, methanol).

reactant | benzyloxycarbonylleucyl-alanine | 20 mmoles, 6.72 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)O | C17H24N2O5
reactant | N-hydroxysuccinimide | 20 mmoles, 2.3 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N'-dicyclohexyl-carbodiimide | 4.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethyl 1-amino-1-cyclopentanecarboxylate | NC1(CCCC1)C(=O)OCC | C8H15NO2
reactant | hydrochloride | 20 mmoles, 3.86 g | Cl | ClH
reactant | N-ethylpiperidine | 2.8 ml | C(C)N1CCCCC1 | C7H15N
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | Ethyl benzyloxycarbonylleucyl-alanyl-1-amino-1-cyclopentanecarboxylate | 7.6 g, 80% | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)C1C(CCC1)(C(=O)OCC)N | C25H37N3O6
